Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
febrile neutropenia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ PMH of AML (s/p 7+3 and recently received C3 HiDAC ___,
Perianal Abscess (s/p I&D), Marijuana Use, who presented with
neutropenic fever, admitted to ___ for further workup/treatment

Pt received last cycle of HiDAC on ___ with neulasta on
___. He noted that on ___ he was called by clinic 
staff
and instructed to start flagyl/cipro prophylaxis and he did so
accordingly. The next day he had fever up to 100.6, and his
daughter was nervous given her cytopenias so had him call the
fellow who rec'd ED evaluation.

Pt noted that despite the single episode of fever, he has been
without cough, sore throat, mucositis, headache, neck stiffness,
nausea, vomiting, diarrhea, abdominal pain, rash, dysuria,
diarrhea. He noted that he had occasional hemorrhoidal pain but
nothing that felt like the perianal abscess he had in the past. 

In the ED, initial vitals: 98.9 113 117/80 18 100% RA. Labs
included WBC of 0.2 (2% Neutrophils), 9 plt, Hgb 8.5, chem wnl,
lactate 1.1. UA negative. Bcx were drawn. CXR was negative for
acute change. Patient was seen by ___ in the emergency room.
Patient received Cefepime, vancomycin, flagyl and later had
voriconazole added as per  discussion with ___ fellow. Plt  were
transfused for  count of 9

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
___ INITIAL BM/BXAML
___ Consented to protocol ___ INDUCTION DAUNOrubicin  (90 mg/m2)  Cytarabine  (100
mg/m2) (RHP: +NPM1, +IDH2,+ RAD21)
___ D+14 BMBx ablated, 
___ D+26 remission, NPM1 negative
___ C1D1 HIDAC
--___ admitted for fever
--___ CT showed perianal abscess, drained, improved with
antibiotics
--___ C2D1 HIDAC

PAST MEDICAL HISTORY (per OMR):
AS ABOVE
 
Social History:
___
Family History:
Mother had lung cancer
Father had some type of metastatic cancer extensively involving
the bones
No history of any hematologic disorders including leukemia or
lymphoma
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals:   97.9 
PO 104 / 67
R Sitting 82 18 99 Ra 
GENERAL: laying in bed, appears comfortable, smiling, pleasant
EYES: PERRLA, anicteric
HEENT: OP clear, no lesions or mucositis, MMM
NECK: supple
LUNGS:  CTA b/l without qheezes/rales/rhonchi, normal RR
CV: RRR no m/r/g, no peripheral edema
ABD: soft, NT, ND, normoactive BS
GENITOURINARY: no foley
EXT: warm, dry, no rash no deformity, normal muscle bulk
SKIN: warm, dry, no rash  
NEURO:  AOx3, fluent speech
ACCESS: port in right chest which is accessed, clean dry, and
intact

DISCHARGE PHYSICAL EXAM:
VS: 98.1 119/76 85 18 98%RA
I/O: ___/BRP
Wt: 90.54 kg
GEN: sitting on side of bed, comfortable, pleasant
EYES: PERRLA, anicteric
HEENT: OP clear, no lesions or mucositis, MMM
NECK: Supple
LUNGS: CTA b/l without wheezes/rales/rhonchi, normal RR
CV: RRR no m/r/g, no peripheral edema
ABD: soft, NT/ND, normoactive BS
GENITOURINARY: No foley
EXT: warm, dry, no rash/deformity, normal muscle bulk
SKIN: warm, dry, no rash or lesions  
NEURO: AOx3, fluent speech
ACCESS: Right chest POC C/D/I
 
Pertinent Results:
___ 05:10AM BLOOD WBC-4.5# RBC-2.34* Hgb-7.8* Hct-22.4* 
MCV-96 MCH-33.3* MCHC-34.8 RDW-15.8* RDWSD-54.8* Plt Ct-29*
___ 09:33PM BLOOD WBC-0.2* RBC-2.49* Hgb-8.5* Hct-25.0* 
MCV-100* MCH-34.1* MCHC-34.0 RDW-16.3* RDWSD-60.3* Plt Ct-9*#
___ 05:10AM BLOOD Neuts-62 Bands-2 ___ Monos-11 Eos-0 
Baso-0 Atyps-1* Metas-2* Myelos-0 Promyel-1* AbsNeut-2.88 
AbsLymp-0.99* AbsMono-0.50 AbsEos-0.00* AbsBaso-0.00*
___ 09:33PM BLOOD Neuts-2* Bands-0 Lymphs-89* Monos-8 Eos-0 
Baso-1 ___ Myelos-0 AbsNeut-0.00* AbsLymp-0.18* 
AbsMono-0.02* AbsEos-0.00* AbsBaso-0.00*
___ 05:10AM BLOOD Glucose-104* UreaN-9 Creat-0.8 Na-136 
K-3.8 Cl-99 HCO3-23 AnGap-14
___ 09:33PM BLOOD Glucose-109* UreaN-14 Creat-0.7 Na-138 
K-3.7 Cl-100 HCO3-22 AnGap-16
___ 05:10AM BLOOD ALT-16 AST-16 LD(___)-211 AlkPhos-66 
TotBili-0.3
___ 07:00AM BLOOD ALT-13 AST-11 LD(___)-103 AlkPhos-61 
TotBili-0.9
___ 05:10AM BLOOD Albumin-3.6 Calcium-9.2 Phos-3.3 Mg-1.8
___ 06:37AM BLOOD Calcium-8.6 Phos-3.4 Mg-1.8
 
Brief Hospital Course:
 Mr. ___ is a ___ PMH of AML (s/p 7+3 and
recently received C3 HiDAC ___, Perianal Abscess (s/p I&D),
Marijuana Use, who presented with neutropenic fever.

#Febrile Neutrapenia: resolved. Neutropenia was likely due to
recent chemotherapy HiDAC regimen. He received neulasta on
___. He was started on prophylactic antibiotics on ___
(ciprofloxacin and flagyl) once his ANC < 500; unfortunately, he
developed fever 1 day after initiation of PPX antibiotics.
Patient has a history of vaping marijuana and has been on
voriconazole in the past to prevent fungal infection.

Fortunately, patient without any localizing symptoms, now with
count recovery and afebrile >72 hrs with no source found. POC
without any evidence of infection.

-F/U UCx/Bcx: negative to date
-Flu swab negative, viral panel neg
-Home cipro/flagyl ppx give were held for systemic IV ABX 
-Initiated on Vancomycin/Cefepime/Flagyl/Voriconazole on 
___
for empiric coverage. Changed from Voricnazole to Posaconazole
per discussion with AST. 
-now peeling off ABX with count recovery. d/c vanc ___, plan 
to
d/c cefe ___ if remains afebrile and d/c home. will d/c flagyl
___ and d/c vori ___ at home if remains afebrile.

#AML (+NPM1, +IDH2,+ RAD21): Considered favorable risk based on
IDH2 and NPM1 status, although presence of RAD21 not well
understood. He did achieve MRD negative status based on his
negative NPM1 by PCR testing and is considered favorable AML. He
is currently s/p cycle #3 of HIDAC. Today is D+ 18. 

#Anemia: At baseline, likely ___ BM suppression in setting of
chemotherapy and AML
-Trend daily
-Maintain T&S
-Transfuse for hgb<7 and or active bleeding
-Received 1U PRBCS ___ 

#Thrombocytopenia: likely ___ BM suppression in setting of 
recent
chemotherapy and AML as has nadired to similar counts in the 
past
on last cycle of HiDAC. No schistos on smear.
-Coags  WNL to r/o consumptive process such as DIC given fever
(despite lower likelihood given smear witout shistos)
-Maintain T&S
-Transfuse for plt<10 and/or active bleeding
-Needs pre-medications w/ Tylenol, Benadryl and Pepcid 

#Marijuana Use: Continues although he is using vaporizer, will
need to take prophylactic fungal therapy during his neutropenic
periods.

=
================================================================

CORE MEASURES: 
============== 
#FEN: IVF prn/replete electrolytes/neutropenic diet/precautions
#Prophylaxis:  
-DVT: pboots given thrombocytopenia  
#Access: PORT
#HCP/Contact: ___ 
Relationship: Ex-wife 
Phone number: ___ 
Cell phone: ___  
#Code: Full Code
#Disposition: Given count recovery, will discharge home today
with cipro/metronidazole. Will f/u with Dr. ___ on ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO DAILY 
2. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES TID 
3. LORazepam 0.5-1 mg PO Q8H:PRN 
anxiety/nausea/vomiting/insomnia 
4. Ciprofloxacin HCl 500 mg PO Q12H 
5. MetroNIDAZOLE 500 mg PO TID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H  
2.  LORazepam 0.5-1 mg PO Q8H:PRN 
anxiety/nausea/vomiting/insomnia  
3.  MetroNIDAZOLE 500 mg PO TID 
you can stop this medication on ___ as long as you have no 
fevers  
4.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES TID  
5.  Vitamin D ___ UNIT PO DAILY  
6.  Voriconazole 200 mg PO Q12H 
Take through ___. If you do not have a fever, then you can 
stop this.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
lymphoma
febrile neutropenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted for fever when your blood counts were low. 
Your infectious work up was negative and your fevers resolved 
and your counts recovered. You will continue ciprofloxacin and 
metronidazole. You will follow up with Dr. ___ as stated 
below. It was a pleasure taking care of you.
 
Followup Instructions:
___